US04482710
7-[4-Methanesulphonyloxy-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-methoxymethyl-3-cephem-4-carboxylic acid
510 mg of 3-acetoxymethyl-7-[4-methanesulphonyloxy-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-cephem-4-carboxylic acid and 130 mg of sodium hydrogen carbonate were dissolved in 5.1 ml of 67% v/v aqueous methanol, and 5.1 g of anhydrous calcium chloride were added. The mixture was stirred for 1 hour at a bath temperature of 70° C., after which 50 ml of ice-water were added and the mixture was acidified to a pH value of 1.0 by the addition of hydrochloric acid. The mixture was then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulphate, after which the solvent was distilled off, giving 352 mg of the title compound in the form of a pale brown, foamy substance.

reactant | 3-acetoxymethyl-7-[4-methanesulphonyloxy-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-cephem-4-carboxylic acid | 510 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(\C(COS(=O)(=O)C)=O)=N/OC)=O)=O | C16H19N3O11S2
reactant | sodium hydrogen carbonate | 130 mg | C(O)([O-])=O.[Na+]
reactant | calcium chloride | 5.1 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-[4-Methanesulphonyloxy-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-methoxymethyl-3-cephem-4-carboxylic acid | 352 mg | CS(=O)(=O)OCC(/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=N/OC)=O | C15H19N3O10S2
